US06407096B1
4-(2-(diphenylmethoxy)ethyl)-8-hydroxy-3,4-dihydro-2H-1,4-benzoxazine
8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine (482 mg) was dissolved in THF (2 ml) and a methanol (10 ml), and anhydrous potassium carbonate (250 mg) was added to the resultant solution, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure, and the residue was poured into 5% citric acid, and then extracted with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over sodium sulfate, and then concentrated to obtain the colorless oily object compound (429 mg, yield 99%).

reactant | 8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine | 482 mg | C(C)(=O)OC1=CC=CC=2N(CCOC21)CCOC(C2=CC=CC=C2)C2=CC=CC=C2 | C25H25NO4
reactant | methanol | 10 ml | CO | CH4O
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(2-(diphenylmethoxy)ethyl)-8-hydroxy-3,4-dihydro-2H-1,4-benzoxazine | 429 mg, yield 99% | C1(=CC=CC=C1)C(OCCN1CCOC2=C1C=CC=C2O)C2=CC=CC=C2 | C23H23NO3
